US05650533
A mixture of ethyl 3,4-dichloro-2-mercaptobenzoate (7.95 g), 2,2,2-trifluoroethyl-p-toluene-sulphonate (9.66 g) and potassium carbonate (6.56 g) in DMF was heated at 90° C. for 4.5 hours. After cooling, water was added and the reaction mixture extracted with ether. The organic extracts were washed with water, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness and the residue purified by column chromatography eluting with ether/n hexane to give ethyl 3,4-dichloro-2-trifluoroethylsulphenylbenzoate as a yellow oil, (3.53 g) NMR CDCl3 ; 1.4(t,3H), 3.5(q,2H), 4.4(q,2H), 7.45(d, 1H), 7.55(d, 1H).

reactant | ethyl 3,4-dichloro-2-mercaptobenzoate | 7.95 g | ClC=1C(=C(C(=O)OCC)C=CC1Cl)S | C9H8Cl2O2S
reactant | 2,2,2-trifluoroethyl-p-toluene-sulphonate | 9.66 g | FC(COS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C9H9F3O3S
reactant | potassium carbonate | 6.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 3,4-dichloro-2-trifluoroethylsulphenylbenzoate | ClC=1C(=C(C(=O)OCC)C=CC1Cl)SCC(F)(F)F | C11H9Cl2F3O2S
